US07932270B2
A mixture of 2,6-dichloro-5-fluoronicotinic acid (1.26 g, 6.0 mmol), 3-fluorophenethyl amine (1.25 mL, 9.0 mmol), DIEA (3.14 mL, 18 mmol) and MeCN (6 mL) was refluxed for 48 hrs and concentrated. The residue was dissolved in EtOAc (120 mL) and washed with saturated citric acid, water, brine, dried and concentrated. The organic layers were combined, dried (MgSO4) and concentrated. The residue was purified on RP-HPLC using a mixture of acetonitrile and H2O to give 6-chloro-5-fluoro-2-(3-fluorophenethylamino)nicotinic acid as a solid (920 mg, 49%). LRMS (M+H+) m/z 313.0.

reactant | 2,6-dichloro-5-fluoronicotinic acid | 6.0 mmol, 1.26 g | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
reactant | 3-fluorophenethyl amine | 9.0 mmol, 1.25 mL | FC=1C=C(CCN)C=CC1 | C8H10FN
reactant | DIEA | 18 mmol, 3.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 6 mL | CC#N | C2H3N
product | 6-chloro-5-fluoro-2-(3-fluorophenethylamino)nicotinic acid | 920 mg, 49% | ClC1=NC(=C(C(=O)O)C=C1F)NCCC1=CC(=CC=C1)F | C14H11ClF2N2O2
